US06936602B1
In dimethyl carbonate (400 ml) was dissolved a mixture (3.3 g) of 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one and 7-bromo-1-(t-butoxycarbonyl)-5-(t-butoxycarbonyloxy)-2,3-dihydro-1H-1-benzazepine. To the solution was added sodium methoxide (23.0 g), and the mixture was refluxed under nitrogen atmosphere for 2.5 hours and poured into ice-water. To the mixture was added 1M citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one-4-carboxylate (23.8 g) as yellow oil.

reactant | 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one | 3.3 g | BrC=1C=CC2=C(C(CCCN2C(=O)OC(C)(C)C)=O)C1 | C15H18BrNO3
reactant | 7-bromo-1-(t-butoxycarbonyl)-5-(t-butoxycarbonyloxy)-2,3-dihydro-1H-1-benzazepine | BrC=1C=CC2=C(C(=CCCN2C(=O)OC(C)(C)C)OC(=O)OC(C)(C)C)C1 | C20H26BrNO5
reactant | sodium methoxide | 23.0 g | C[O-].[Na+]
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethyl carbonate | 400 ml | C(OC)(OC)=O | C3H6O3
product | methyl 7-bromo-1-(t-butoxycarbonyl)-1,2,3,4-tetrahydro-1-benzazepin-5-one-4-carboxylate | 23.8 g | BrC=1C=CC2=C(C(C(CCN2C(=O)OC(C)(C)C)C(=O)OC)=O)C1 | C17H20BrNO5
